US08912209B2
Intermediate 1: 3-Bromo-4-(1-tert-butoxycarbonylamino-ethyl)-benzoic acid
The crude 4-(1-amino-ethyl)-3-bromo-benzoic acid (15323 to 30727 μmol) was suspended in a mixture of THF/1M Na2CO3: 1/1 (100 ml) or a mixture of acetone/1M Na2CO3: 1/1 (100 ml) or a mixture of acetone/2M Na2CO3: 8/2 (100 ml) and (Boc)2O (1.5 eq) was added. The reaction mixture was stirred at RT for 1 to 2 hours. The organic solvent was removed under reduced pressure or diethylether was added and the two layers were separated or the reaction mixture was filtered and the organic solvent was removed under reduced pressure. The aqueous residue was diluted with citric acid or with a 20% KHSO4 solution and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and the solvent was removed under reduced pressure. The compound was when needed purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | 4-(1-amino-ethyl)-3-bromo-benzoic acid | 15323 to 30727 μmol | NC(C)C1=C(C=C(C(=O)O)C=C1)Br | C9H10BrNO2
reactant | acetone | 1M | CC(=O)C | C3H6O
reactant | acetone | 2M | CC(=O)C | C3H6O
reactant | (Boc)2O | 1.5 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 3-Bromo-4-(1-tert-butoxycarbonylamino-ethyl)-benzoic acid | BrC=1C=C(C(=O)O)C=CC1C(C)NC(=O)OC(C)(C)C | C14H18BrNO4
